US05234928
1-(3,4-Dichlorophenyl)methyl-1,4-dihydro-2,4-dioxo-6-imidazolylmethyl-3(2H)-quinazolineacetic acid
In 1.6 ml of 1N aqueous solution of sodium hydroxide and 20 ml of ethanol were refluxed 0.71 g of ethyl 1-(3,4-dichlorophenyl)methyl-1,4-dihydro-2,4-dioxo-6-imidazolylmethyl-3(2H)-quinazolineacetate for 1 hour. Ethanol was distilled off and the reaction mixture was neutralized with 3N hydrochloric acid. The crystals deposited were collected by filtration, washed with water and dried. They were recrystallized from acetic acid to obtain 0.50 g of title compound. m.p. 243°-244° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl 1-(3,4-dichlorophenyl)methyl-1,4-dihydro-2,4-dioxo-6-imidazolylmethyl-3(2H)-quinazolineacetate | 0.71 g | ClC=1C=C(C=CC1Cl)CN1C(N(C(C2=CC(=CC=C12)CC=1NC=CN1)=O)CC(=O)OCC)=O | C23H20Cl2N4O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(3,4-Dichlorophenyl)methyl-1,4-dihydro-2,4-dioxo-6-imidazolylmethyl-3(2H)-quinazolineacetic acid | 0.50 g | ClC=1C=C(C=CC1Cl)CN1C(N(C(C2=CC(=CC=C12)CC=1NC=CN1)=O)CC(=O)O)=O | C21H16Cl2N4O4
